US07288654B2
To 5-hydroxymethyl-1-propylimidazole (33.0 g) was portionwise added thionyl chloride (80 ml) at 0C, and the mixture was heated at 90° C. for 30 minutes under a nitrogen atmosphere. The mixture was returned to room temperature, and then the solvent was distilled off under reduced pressure. The resulting residue was dissolved in methanol, and the solvent was again distilled off under reduced pressure. The resulting solid was recrystallized from ethyl acetate to give 5-chloromethyl-1-propylimidazole hydrochloride (43.8 g) as colorless crystals.

reactant | 5-hydroxymethyl-1-propylimidazole | 33.0 g | OCC1=CN=CN1CCC | C7H12N2O
reactant | thionyl chloride | 80 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloromethyl-1-propylimidazole hydrochloride | 43.8 g | Cl.ClCC1=CN=CN1CCC | InChI=1S/C7H11ClN2.ClH/c1-2-3-10-6-9-5-7(10)4-8;/h5-6H,2-4H2,1H3;1H
